US07737149B2
A solution of tert-butyl 4-cyclobutylpiperazine-1-carboxylate (1.1553 g, 4.81 mmol) in ethyl acetate (10 mL) and methanol (10.00 mL) was treated with a 4M-solution hydrogen chloride in dioxane (1.669 mL, 48.07 mmol) was stirred at room temperature for 40 h under nitrogen. The reaction was incomplete so f 4M-solution hydrogen chloride in dioxane (10 mL) was added and the solution was stirred at room temperature for a further 2 h. The reaction mixture was evaporated to dryness to afford a solid. The crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 3.5M NH3/MeOH and pure fractions were evaporated to dryness to afford 1-cyclobutylpiperazine (0.571 g, 85%) as a yellow oil.

reactant | tert-butyl 4-cyclobutylpiperazine-1-carboxylate | 4.81 mmol, 1.1553 g | C1(CCC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H24N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10.00 mL | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 48.07 mmol, 1.669 mL | O1CCOCC1 | C4H8O2
product | 1-cyclobutylpiperazine | 0.571 g, 85% | C1(CCC1)N1CCNCC1 | C8H16N2
